US05614633
To a mixture of 0.41 g of 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran, 0.18 g of 2-pyrrolidinone and 8 ml of tetrahydrofuran was added 0.22 g of potassium tert-butoxide with stirring under ice-cooling and the mixture was stirred for 3.5 hours under ice-cooling and then stirred at room temperature for 4 days. Water was added and the mixture was extracted with methylene chloride. After the organic layer was washed with water and dried, the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain from the first eluted fraction 0.08 g of 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-oxo-1-pyrrolidinyl)-2H-1-benzopyran represented by the following formula having a melting point of 104°-105° C.

reactant | 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran | 0.41 g | O1C2C(OC3=C(C21)C=C(C=C3)C(C(F)(F)F)(F)F)(CF)CF | C13H9F7O2
reactant | 2-pyrrolidinone | 0.18 g | N1C(CCC1)=O | C4H7NO
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 0.22 g | CC(C)([O-])C.[K+]
solvent | Water | O | H2O
product | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-oxo-1-pyrrolidinyl)-2H-1-benzopyran | 0.08 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)N2C(CCC2)=O)C1)F | C17H14F7NO2
